US07863283B2
Ethyl 4-(isopropylamino)-7-[3-(methylsulphanyl)propoxy]quinazoline-6-carboxylate
Sodium hydride (60%, 251 mg, 6.3 mmol) is introduced into N,N-dimethylformamide (13 ml), treated in portions with ethyl 7-hydroxy-4-(isopropylamino)quinazoline-6-carboxylate (1 g, 2.98 mmol) and subsequently stirred at room temperature for 30 minutes. After addition of a solution of 3-(methylthio)-1-(tosyloxy)propane (777 mg, 2.98 mmol) in N,N-dimethylformamide (8 ml), the mixture is stirred at 80° C. for one hour. After cooling, the batch is treated with water and ethyl acetate, and the organic phase is separated off and dried over sodium sulphate. The desired product is obtained after removing the solvents and preparative HPLC in 48% yield (548 mg).

reactant | Sodium hydride | 6.3 mmol, 251 mg | [H-].[Na+]
reactant | ethyl 7-hydroxy-4-(isopropylamino)quinazoline-6-carboxylate | 2.98 mmol, 1 g | OC1=C(C=C2C(=NC=NC2=C1)NC(C)C)C(=O)OCC | C14H17N3O3
reactant | 3-(methylthio)-1-(tosyloxy)propane | 2.98 mmol, 777 mg | CSCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C11H16O3S2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-(isopropylamino)-7-[3-(methylsulphanyl)propoxy]quinazoline-6-carboxylate | 48% yield | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)C(=O)OCC)OCCCSC | C18H25N3O3S
